US07582773B2
Step 5: Synthesis of 3-Benzyl-1-methyl-2-phenyl-5-[4-(1H-tetrazol-5-ylmethoxy)-phenyl]-1H-indole.
The desired product was prepared using a procedure similar to step 6 of example 3. Thus, [4-(3-benzyl-1-methyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetonitrile (0.137 g, 0.320 mmol) was reacted with NaN3 (0.104 g, 1.598 mmol) and NH4Cl (0.085 g, 1.598 mmol) in DMF (5 ml) to give the product (0.102 g, 0.216 mmol, 68%) as a pale-yellow solid, dec. 194-197° C. 1H NMR (DMSO-d6) δ 3.59 (s, 3H), 4.01 (s, 2H), 5.46 (s, 2H), 7.03-7.09 (m, 5H), 7.13-7.17 (m, 2H), 7.39-7.53 (m, 9H), 7.55 (d, J=1.2 Hz, 1H), 16.75 (broad s, 1H); IR (solid) 3020, 2920, 1605, 1520, 1480, 1450, 1370 and 1240 cm−1; [ESI(−)], m/z 470 (M−H)−; Anal. Calcd. for C30H25N5O: C, 76.41; H, 5.34; N, 14.85; Found: C, 76.35; H, 5.28; N, 14.90.

reactant | [4-(3-benzyl-1-methyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetonitrile | 0.320 mmol, 0.137 g | C(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)C1=CC=C(OCC#N)C=C1)C)C1=CC=CC=C1 | C30H24N2O
reactant | NaN3 | 1.598 mmol, 0.104 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 1.598 mmol, 0.085 g | [NH4+].[Cl-]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-Benzyl-1-methyl-2-phenyl-5-[4-(1H-tetrazol-5-ylmethoxy)-phenyl]-1H-indole | C(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)C1=CC=C(C=C1)OCC1=NN=NN1)C)C1=CC=CC=C1 | C30H25N5O
